US06509328B1
{2-[3-(3-Nitro-phenyl)-3-oxo-propionylamino]-4-phenylethynyl-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester (Example G2) (1.1 g, 4.0 mmol) and 2,2-dimethyl-6-(3-nitro-phenyl)-[1,3]dioxin-4-one (Example J12) (1.23 g, 4.4 mmol) according to the general procedure K. Obtained as a light yellow solid (989 mg).

reactant | (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester | 4.0 mmol, 1.1 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)N)=O | C19H20N2O2
reactant | 2,2-dimethyl-6-(3-nitro-phenyl)-[1,3]dioxin-4-one | 4.4 mmol, 1.23 g | CC1(OC(=CC(O1)=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C12H11NO5
product | {2-[3-(3-Nitro-phenyl)-3-oxo-propionylamino]-4-phenylethynyl-phenyl}-carbamic Acid tert.-Butyl Ester | 989 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)NC(CC(=O)C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C28H25N3O6
